US07119206B2
Add 4-fluorobenzylzinc chloride (4 mL of 0.5 M/THF) to a stirred solution of trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (525 mg), Pd(dba)2 (68 mg), dppf (66 mg) and Bu4NI (1.1 g) in THF/NMP (2 mL/1.5 mL) at room temperature. Heat the mixture to reflux for 2 h and quench with water. Dilute the mixture with CH2Cl2 and wash with water and brine, dry over MgSO4, filter and concentrate. Load the crude product on an SCX cartridge, wash with MeOH and elute the product with 2M NH3/MeOH. Purify the product by flash chromatography (0–5% (2M NH3 in MeOH/CH2Cl2) to afford [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (380 mg, 78%)

reactant | 4-fluorobenzylzinc chloride | 0.5 M, 4 mL | [Cl-].FC1=CC=C(C[Zn+])C=C1
reactant | trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 525 mg | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
catalyst | Bu4NI | 1.1 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | THF NMP | 2 mL | C1CCOC1.CN1CCCC1=O
catalyst | Pd(dba)2 | 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | dppf | 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 380 mg, 78% | FC1=CC=C(CC2=C(C3=CC=C(C=C3C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C32H32FNO3
